US08106046B2
To a solution of 1-(5-bromothiophen-2-yl)ethanone (4.10 g, 19.99 mmol) and Diethyl carbonate (30 mL, 248 mmol) in THF (40 ml) at room temperature was added sodium hydride (1.679 g, 42.0 mmol). The resulting off-white slurry solution was gradually warmed to 56° C., and became dark brown clear solution. The reaction mixture was heated at 56° C. for 1.5 hour. The reaction mixture was poured into ice-HOAc—H2O, and extracted with ethyl acetate. The organic phase was washed (brine), dried (MgSO4) and concentrated to give a brown liquid. The crude product was purified via flash chromatography (silica gel cartridge with eluent of 0-5% ethyl acetate/hexane) to afford ethyl 3-(5-bromothiophen-2-yl)-3-oxopropanoate as an amble liquid, 4.713 g (85%). HPLC: Rt 2.856 min.

reactant | 1-(5-bromothiophen-2-yl)ethanone | 19.99 mmol, 4.10 g | BrC1=CC=C(S1)C(C)=O | C6H5BrOS
reactant | Diethyl carbonate | 248 mmol, 30 mL | C(OCC)(OCC)=O | C5H10O3
reactant | sodium hydride | 42.0 mmol, 1.679 g | [H-].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | ethyl 3-(5-bromothiophen-2-yl)-3-oxopropanoate | BrC1=CC=C(S1)C(CC(=O)OCC)=O | C9H9BrO3S
